US06184236B2
A mixture of 1-(4-methoxy-phenyl)-piperidin-4-one oxime (4.55 g, 20.6 mmol), “Red-Al®” (70% in toluene, 23.4 ml) and toluene (10 ml) was heated at 140° for 2 h. After cooling, the reaction mixture was poured on H2O (100 ml). Extraction of the solution with CH2Cl2, drying of the organic layer, evaporation of the solvent and purification of the residue by chromatography (SiO2, CH2Cl2—MeOH—aq. NH3 140:10:1) gave 1-(4-methoxy-phenyl)-piperidin-4-yl-amine (3.5 g, 89%, white crystals, MS: m/e=207.2 (M+H+)).

reactant | 1-(4-methoxy-phenyl)-piperidin-4-one oxime | 20.6 mmol, 4.55 g | COC1=CC=C(C=C1)N1CCC(CC1)=NO | C12H16N2O2
reactant | Red-Al | COCCO[AlH2-]OCCOC.[Na+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(4-methoxy-phenyl)-piperidin-4-yl-amine | 3.5 g, 89% | COC1=CC=C(C=C1)N1CCC(CC1)N | C12H18N2O
